US08258144B2
2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(4-(ureidomethyl)piperidin-1-yl)pyrimidine-5-carboxamide
To a suspension of 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(4-(aminomethyl)piperidin-1-yl)pyrimidine-5-carboxamide (8 mg, 0.018 mmol) in CH3CN (1 mL), a solution of KCN (18 mg, 0.22 mmol) in H2O (1 mL) was added. The mixture was stirred at 70° C. for 20 h. It was then purified by HPLC to give the titled compound (6 mg). MS 496.5 (M+H); UV 200.8, 271.8 nm.

reactant | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(4-(aminomethyl)piperidin-1-yl)pyrimidine-5-carboxamide | 0.018 mmol, 8 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCC(CC1)CN)C(=O)N | C23H32N8O2
reactant | KCN | 0.22 mmol, 18 mg | [C-]#N.[K+]
reactant | H2O | 1 mL | O | H2O
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(4-(ureidomethyl)piperidin-1-yl)pyrimidine-5-carboxamide | 6 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCC(CC1)CNC(=O)N)C(=O)N | C24H33N9O3
